US08383821B2
Potassium tert-butoxide (266 mg, 2.37 mmol) was added to a 0° C. solution of tert-butyl 4-(2-bromo-4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate (460 mg, 1.18 mmol) and 3′-(bromomethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile (524 mg, 1.54 mmol) in THF (10 mL) and was allowed to warm to ambient temperature and stir for 24 hours. The solvent was evaporated and the residue was purified by chromatography on SiO2 with a gradient of ethyl acetate/hexanes from 5% to 40%. The product tert-butyl 4-(2-bromo-4-fluorophenyl)-4-(((4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)methoxy)methyl)piperidine-1-carboxylate (520 mg, 68%) was isolated as a clear syrup. 1H-NMR (CDCl3, 400 MHz) δ 7.75 (d, J=8.3 Hz, 2H), 7.67 (s, 1H), 7.58 (d, J=8.3 Hz, 2H), 7.36 (m, 3H), 7.22 (m, 1H), 6.99 (m, 1H), 4.49 (s, 2H), 3.94 (s, 2H), 3.57 (m, 1H), 3.24 (m 1H), 2.48 (m, 2H), 2.05 (m, 2H), 1.42 (s, 9H). Mass spec.: 647.2 (M+H).

reactant | Potassium tert-butoxide | 2.37 mmol, 266 mg | CC(C)([O-])C.[K+]
reactant | tert-butyl 4-(2-bromo-4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate | 1.18 mmol, 460 mg | BrC1=C(C=CC(=C1)F)C1(CCN(CC1)C(=O)OC(C)(C)C)CO | C17H23BrFNO3
reactant | 3′-(bromomethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile | 1.54 mmol, 524 mg | BrCC=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C15H9BrF3N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(2-bromo-4-fluorophenyl)-4-(((4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)methoxy)methyl)piperidine-1-carboxylate | 520 mg, 68% | BrC1=C(C=CC(=C1)F)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C32H31BrF4N2O3
